US05216160
Dicyanoketene Dimethyl Thioacetal
To a sodium methylate solution of 2.3 g (0.1 mol) of sodium and 41 g of ethanol, 6.6 g (0.1 mol) of malononitrile (melted) was instilled under exclusion of moisture within 5 minutes at room temperature with stirring and then stirred for another 5 minutes at room temperature. The resultant suspension was cooled to 15° C. and, at this temperature, solutions of 7.6 g (0.1 mol) of carbon disulfide in 36 g of ethanol and 2.3 g (0.1 mol) of sodium in 41 g of ethanol were added within 60 minutes from two injection syringes operated synchronously. During the addition, a clear yellow-green solution formed, which was stirred for another 60 minutes. Then 26.5 g (0.21 mol) of dimethyl sulfate from a dropping funnel was added within 30 minutes with stirring. The temperature rose in this connection and was held at 20° C. by cooling. A yellow suspension resulted, which was stirred another 4 hours at 20° C. and then poured with stirring in 400 g of ice water. The aqueous ethanolic suspension was stirred for 2 hours more at room temperature for the decomposition of excess dimethyl sulfate,cooled to 5° C. and filtered. The filter cake was washed with a little water and dried at room temperature in a vacuum. There was a yield of 14.1 g of yellowish crystal with a content (HPLC) of 99.9 percent (83 percent of theory, relative to malononitrile.

reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.1 mol, 2.3 g | [Na] | Na
reactant | malononitrile | 0.1 mol, 6.6 g | C(CC#N)#N | C3H2N2
reactant | carbon disulfide | 0.1 mol, 7.6 g | C(=S)=S | CS2
reactant | sodium | 0.1 mol, 2.3 g | [Na] | Na
reactant | dimethyl sulfate | 0.21 mol, 26.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ethanol | 36 g | C(C)O | C2H6O
solvent | ethanol | 41 g | C(C)O | C2H6O
solvent | ethanol | 41 g | C(C)O | C2H6O
product | Dicyanoketene Dimethyl Thioacetal | COC(=C(C#N)C#N)SC | C6H6N2OS
